US07825253B2
N2-(5-Methyl-furan-2-ylmethyl)-N5-pyridin-2-ylmethyl-quinoline-2,5-diamine
The title compound, MS: m/e=345.3 (M+H+), was prepared from N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine and 2-pyridinecarboxaldehyde as described in example 21 step C.

reactant | N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)N | C15H15N3O
reactant | 2-pyridinecarboxaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
product | N2-(5-Methyl-furan-2-ylmethyl)-N5-pyridin-2-ylmethyl-quinoline-2,5-diamine | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)NCC1=NC=CC=C1 | C21H20N4O
